US05384168
10.7 g of triphenylmethylphosphoniumbromide are added at room temperature to a mixture of 20 ml of n-butyllithium (1.55 molar in hexane) and 60 ml of diethyl ether. After the mixture has been kept at room temperature for 4 hours, 7.3 g of 8-cyclohexadecen-1-one are added dropwise, and the mixture is refluxed for 18 hours. The mixture is filtered, the solvent is removed by distillation, and the residue is purified by chromatography (SiO2, hexane/ethyl acetate 95:5), giving 2.5 g of 1-methylene-8-cyclohexadecene, identified from the 1H-NMR spectrum: δ=5.2 (t, --CH=CH--); δ=4.75 (s, C=CH2).

reactant | triphenylmethylphosphoniumbromide | 10.7 g | [Br-].C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)[PH3+]
reactant | n-butyllithium | 1.55 molar, 20 ml | C(CCC)[Li]
reactant | 8-cyclohexadecen-1-one | 7.3 g | C1(CCCCCCC=CCCCCCCC1)=O | C16H28O
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | 1-methylene-8-cyclohexadecene | 2.5 g | C=C1CCCCCCC=CCCCCCCC1 | C17H30
